US04752645
(C) 1,3,4,5-Tetrahydro-3-(methoxycarbonyl)-4-(methoxyphenyl)-3-(2-propenyl)-7-(trifluoromethyl)-2H-1-benzazepin-2-one
α-(2-Propenyl)-[2-(2-amino-5-trifluoromethylphenyl)-1-(4-methoxyphenyl)ethyl]propanedioic acid, dimethyl ester (47.47 g; 0.102 mole) and a 25% (by weight) solution of sodium methoxide in methanol (107 ml; 0.469 mole; d=0.945; 4.6 eq.) in methanol (200 ml) and dry dimethylformamide (200 ml) was refluxed (~95° C.) overnight. 1N Hydrochloric acid was added with stirring, producing a precipitate that was collected by suction-filtration and triturated with water (two times). The solid was slurried in carbon tetrachloride and rotary evaporated followed by vacuum drying to give 42.99 g of crude product.

reactant | α-(2-Propenyl)-[2-(2-amino-5-trifluoromethylphenyl)-1-(4-methoxyphenyl)ethyl]propanedioic acid, dimethyl ester | 0.102 mole, 47.47 g | C(C=C)C(C(=O)OC)(C(=O)OC)C(CC1=C(C=CC(=C1)C(F)(F)F)N)C1=CC=C(C=C1)OC | C24H26F3NO5
reactant | sodium methoxide | C[O-].[Na+]
reactant | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
reactant | Hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 200 ml | CO | CH4O
solvent | methanol | 0.469 mole, 107 ml, 4.6 eq. | CO | CH4O
product | 1,3,4,5-Tetrahydro-3-(methoxycarbonyl)-4-(methoxyphenyl)-3-(2-propenyl)-7-(trifluoromethyl)-2H-1-benzazepin-2-one | 42.99 g | COC(=O)C1(C(NC2=C(CC1C1=C(C=CC=C1)OC)C=C(C=C2)C(F)(F)F)=O)CC=C | C23H22F3NO4
